US07423053B2
4-Aminopiperidine-1-carboxylic acid tert-butyl ester (5.0 g, 25 mmol) (Astatech, Inc) was dissolved in dimethylformamide (120 mL) and cooled to −15° C. Thiocarbonyidiimidazole (4.8 g, 27 mmol) (Aldrich) in dimethylformamide (100 mL) was added slowly at below −10° C. The mixture was stirred at room temperature for 14 h. All solvent was removed under vacuum and the residue was dissolved in methylene chloride (200 mL) and washed 2× water. The solvent was removed and the residue was triturated with hexane. This was filtered and the solution treated with Norite and filtered through celite. Removal of solvent gave 4-isothiocyanatopiperidine-1-carboxylic acid tert-butyl ester (5.7 g, 94% yield) as oil. LR-MS-EI(+): Compatible with 242 MW.

reactant | 4-Aminopiperidine-1-carboxylic acid tert-butyl ester | 25 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | Thiocarbonyidiimidazole | 27 mmol, 4.8 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-isothiocyanatopiperidine-1-carboxylic acid tert-butyl ester | 5.7 g, 94% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N=C=S | C11H18N2O2S
